US06903097B2
N-(4-Chlorobenzyl)-4-hydroxy-7-(3-hydroxy-1-propynyl)-2-oxo-2H-pyrido[1,2-a]-pyrimidine-3-carboxamide [AA.3]
N-(4-Chlorobenzyl)-4-hydroxy-2-oxo-7-(3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl)-2H-pyrido[1,2-a]pyrimidine-3-carboxamide (Preparation 7, 12 mg) is dissolved in CH2Cl2 and treated with 0.5 M HCl in methanol (0.5 mL). The reaction mixture is stirred for 16 h at room temperature. The mixture is concentrated, and the residue is crystallized from ether/hexanes and dried to afford 7 mg of the title compound as a brown solid. Physical characteristics: 1H NMR (CD3OD) δ9.2, 8.35, 7.75, 7.4-7.5, 4.80, 4.50; MS (ESI+) m/z 386 (M+H)+.

reactant | N-(4-Chlorobenzyl)-4-hydroxy-2-oxo-7-(3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl)-2H-pyrido[1,2-a]pyrimidine-3-carboxamide | 12 mg | ClC1=CC=C(CNC(=O)C=2C(N=C3N(C2O)C=C(C=C3)C#CCOC3OCCCC3)=O)C=C1 | C24H22ClN3O5
reactant | HCl | 0.5 M | Cl | ClH
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | methanol | 0.5 mL | CO | CH4O
product | N-(4-Chlorobenzyl)-4-hydroxy-7-(3-hydroxy-1-propynyl)-2-oxo-2H-pyrido[1,2-a]-pyrimidine-3-carboxamide | 7 mg | ClC1=CC=C(CNC(=O)C=2C(N=C3N(C2O)C=C(C=C3)C#CCO)=O)C=C1 | C19H14ClN3O4
